US08748624B2
STEP B: ethyl 3-(5-(2-((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)carbamoyl)-4,5-difluorophenyl)picolinamido)propanoate
2-Bromo-N-(2′,4′-dichloro-[1,1′-biphenyl]-4-yl)-4,5-difluorobenzamide (100 mg, 0.22 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (114 mg, 0.33 mmol), Pd(dppf)Cl2 (24 mg, 0.03 mmol), and K2CO3 (60 mg, 0.44 mmol) were dissolved in 1,4-dioxane (1 mL) and water (0.5 mL) and the resulting mixture was heated to 85° C. After 2 h the resulting mixture directly purified via column chromatography to yield the title compound.

reactant | 2-Bromo-N-(2′,4′-dichloro-[1,1′-biphenyl]-4-yl)-4,5-difluorobenzamide | 0.22 mmol, 100 mg | BrC1=C(C(=O)NC2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)C=C(C(=C1)F)F | C19H10BrCl2F2NO
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 0.33 mmol, 114 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 0.44 mmol, 60 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.5 mL | O | H2O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)carbamoyl)-4,5-difluorophenyl)picolinamido)propanoate | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NC(=O)C1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H23Cl2F2N3O4
